US08871782B2
A mixture of 4-amino-2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol (prepared as described above, 750 mg, 2.27 mmol), 4-(bromoacetyl)morpholine (565 mg, 2.72 mmol), and cesium carbonate (2.22 g, 6.81 mmol) in DMF (30 mL) was heated at 75° C. overnight. The reaction mixture was allowed to cool and was poured into water (300 mL). After 30 minutes, the solution was extracted with chloroform (6×75 mL). The organic layers were combined, dried over magnesium sulfate, filtered, and concentrated to dryness. The resulting solid was purified by chromatography on a HORIZON HPFC system (silica gel, gradient elution with 0-35% methanol/dichloromethane (1:10) in dichloromethane) The appropriate fractions were combined and concentrated to yield an off white solid that was slurried in boiling acetonitrile for 15 minutes. The slurry was allowed to cool with stirring. The solid was isolated by filtration and dried to yield 797 mg of 1-[4-amino-2-(ethoxymethyl)-7-(2-morpholin-4-yl-2-oxoethoxy)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol as an off-white solid, mp 209-211° C.

reactant | 4-amino-2-(ethoxymethyl)-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-7-ol | 2.27 mmol, 750 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)O)COCC)O | C17H22N4O3
reactant | 4-(bromoacetyl)morpholine | 2.72 mmol, 565 mg | BrCC(=O)N1CCOCC1 | C6H10BrNO2
reactant | cesium carbonate | 6.81 mmol, 2.22 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 300 mL | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-[4-amino-2-(ethoxymethyl)-7-(2-morpholin-4-yl-2-oxoethoxy)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol | 797 mg | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(O)C)COCC)OCC(=O)N2CCOCC2 | C23H31N5O5
